* Z:\mnt\design.r\spice\examples\3494A.asc
V1 IN 0 3.6
L1 IN N001 15µ
C1 0 N002 .22µ
R1 OUT N003 2.21Meg
C2 OUT 0 2.2µ
XU1 N001 0 IN IN IN N003 OUT N002 LT3494A
Rload OUT 0 5K
.tran 1m startup
.lib LT3494A.sub
.backanno
.end
